US06455708B1
Methyl 5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynoate
An amount (0.53 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-yl 4-trifluoromethylphenyl ether was dissolved in diethyl ether (3 ml); to the solution under cooling with ice, a hexane solution (1.4 ml) of 1.69 M n-butyllithium was added dropwise under a nitrogen atmosphere. After the end of the dropwise addition, the mixture was stirred for 1 hour under cooling with ice. The resulting mixture was added dropwise to a solution of methyl chloroformate (0.38 g) in diethyl ether (3 ml) under a nitrogen atmosphere under cooling with ice. After stirring the mixture for 1 hour under cooling with ice, hexane was added, followed by washing with water and a saturated aqueous solution of sodium chloride. The mixture was dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/methylene chloride=1/1) to give the titled compound (0.51 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-yl 4-trifluoromethylphenyl ether | 0.53 g | FC(C1=CC=C(C=C1)OC(CF)(C#C)CF)(F)F | C12H9F5O
reactant | hexane | 1.4 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.69 M | C(CCC)[Li]
reactant | methyl chloroformate | 0.38 g | ClC(=O)OC | C2H3ClO2
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | Methyl 5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynoate | 0.51 g | FCC(C#CC(=O)OC)(OC1=CC=C(C=C1)C(F)(F)F)CF | C14H11F5O3
